US04409214
To a suspension of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (48 g) in methanol (250 ml) and anisole (70 ml) was added p-toluenesulfonic acid (85 g), and the mixture was stirred at 50° C. for 2 hours. The reaction mixture was poured into 10% aqueous sodium carbonate (600 ml) and ethyl acetate (700 ml), followed by adjusting to pH 7.5 with 20% aqueous sodium carbonate. The separated aqueous solution was washed with ethyl acetate (500 ml) and then adjusted to pH 2.5 with conc. hydrochloric acid, followed by stirring under ice-cooling for an hour. The precipitated crystals were collected by filtration and washed with acetone to obtain 7-amino-3-vinyl-3-cephem-4-carboxylic acid (15.4 g), mp 200° to 230° C. (dec.).

reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 48 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | p-toluenesulfonic acid | 85 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | 600 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 250 ml | CO | CH4O
solvent | anisole | 70 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-amino-3-vinyl-3-cephem-4-carboxylic acid | 15.4 g | NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C9H10N2O3S
